US09388199B2
B. Tert-butyl 2-(3-cyano-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetate
To a solution of (5-benzyloxy-3-cyano-indazol-1-yl)-acetic acid tert-butyl ester (4 g, 11.01 mmol) in THF (400 mL) was added Pd/Al2O3 (5%) (4.10 g, 38.5 mmol). The reaction mixture was stirred at 40° C. for 16 h under H2 atmosphere (4 bars). The reaction mixture was filtered through a pad of Celite, which was then washed with CH2Cl2. The combined organics were concentrated under vacuum to give the title compound as a yellow solid. MS (LC/MS): 296.0 [M+Na]+; tR (conditions e): 4.46 min.

reactant | (5-benzyloxy-3-cyano-indazol-1-yl)-acetic acid tert-butyl ester | 11.01 mmol, 4 g | C(C)(C)(C)OC(CN1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C#N)=O | C21H21N3O3
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | Tert-butyl 2-(3-cyano-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetate | C(#N)C1=NN(C2=CC=C(C=C12)OCC1=NC=CC=N1)CC(=O)OC(C)(C)C | C19H19N5O3
